US07842685B2
A mixture of 3,6-dichloropyridin-2-amine (0.772 g, 4.74 mmol), sodium carbonate (2.01 g, 18.9 mmol), and thiophosgene (0.726 mL, 9.47 mmol) in 6 mL DCM was heated to 55° C. in a sealed tube for 36 h. The reaction was filtered through a frit, rinsing with DCM, and the material was adsorbed onto 6 g silica gel and dried. The material was purified by silica gel chromatography, 40 g, 0-100% EA/hexanes to give 3,6-dichloro-2-isothiocyanatopyridine. 1H NMR (400 MHz, DMSO-d6) 8 ppm 8.19 (d, J=8.5 Hz, 1 H), 7.59 (d, J=9.5 Hz, 1 H).

reactant | 3,6-dichloropyridin-2-amine | 4.74 mmol, 0.772 g | ClC=1C(=NC(=CC1)Cl)N | C5H4Cl2N2
reactant | sodium carbonate | 18.9 mmol, 2.01 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | thiophosgene | 9.47 mmol, 0.726 mL | C(=S)(Cl)Cl | CCl2S
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | 3,6-dichloro-2-isothiocyanatopyridine | ClC=1C(=NC(=CC1)Cl)N=C=S | C6H2Cl2N2S
